US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-2,5-dimethyl-benzamide
The title compound (4 mg, 10%) was prepared analogously to example 8 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 2,5-dimethylbenzoic acid. MS: 401.4 (MH+).

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 2,5-dimethylbenzoic acid | CC1=C(C(=O)O)C=C(C=C1)C | C9H10O2
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-2,5-dimethyl-benzamide | 4 mg, 10% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=C(C=CC(=C2)C)C)=O)C=C1)OCC | C23H29ClN2O2
